US07273875B2
4-[8-(3-Fluorophenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester
This compound is prepared in an analogous way to compound 4-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester from trifluoromethanesulfonic acid 8-(3-flurophenyl)-[1,7]naphthyridin-6-yl ester. Purification is by chromatography followed by trituration with ether to yield a white solid. MS (AP+) 378.98

reactant | 4-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CCC(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N | C24H23N3O2
reactant | trifluoromethanesulfonic acid 8-(3-flurophenyl)-[1,7]naphthyridin-6-yl ester | FC=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)OS(=O)(=O)C(F)(F)F | C15H8F4N2O3S
product | 4-[8-(3-Fluorophenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CCC(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)F | C23H23FN2O2
